US07737301B2
1 g of benzyl(2-bicyclopropyl-2-yl-phenyl)amine (3.8 mmol, trans/cis ratio of about 3:1) is dissolved in 15 ml of absolute tetrahydrofuran. Then 50 mg of Pd (5%) on activated carbon are added. Hydrogenation is then carried out, with stirring, for 1 hour at room temperature. After completion of the reaction, the catalyst is filtered off and the solvent is removed using a water jet vacuum. The product is purified by chromatography on silica gel (eluant:ethyl acetate/hexane 1/15). 0.61 g of 2-bicyclopropyl-2-ylphenylamine (92% of theory) is obtained in the form of a brownish liquid (trans/cis ratio of about 3:1).

reactant | benzyl(2-bicyclopropyl-2-yl-phenyl)amine | 3.8 mmol, 1 g | C(C1=CC=CC=C1)NC1=C(C=CC=C1)C1C(C1)C1CC1 | C19H21N
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
catalyst | Pd | 50 mg | [Pd] | Pd
product | 2-bicyclopropyl-2-ylphenylamine | 0.61 g, 92% | C1(C(C1)C1=C(C=CC=C1)N)C1CC1 | C12H15N
